### PR TITLE
Specification and proof for EdwardsPoint_identity

### PR DESCRIPTION
**Pull request by Zhang-Liao**
Finish Issue [125](https://github.com/Beneficial-AI-Foundation/curve25519-dalek-lean-verify/issues/125)

### CODE REVIEW

File: Curve25519Dalek/Specs/Edwards/EdwardsPoint/Identity.lean [hunk 1]
```diff
@@ -1,20 +1,40 @@
...
+/-- **Spec and proof concerning `edwards.Identitycurve25519_dalekedwardsEdwardsPoint.identity`**:
+- No panic (always returns successfully)
+- The resulting EdwardsPoint is the identity element with coordinates (X=0, Y=1, Z=1, T=0)
+-/
+@[progress]
+theorem identity_spec :
+  ∃ q, identity = ok q ∧
+  q.X = ZERO ∧ q.Y = ONE ∧ q.Z = ONE ∧ q.T = ZERO := by
+  unfold identity
+  progress*
```
Comment (oliver-butterley) [inline Curve25519Dalek/Specs/Edwards/EdwardsPoint/Identity.lean]:
```suggestion
  simp
```

The more elementary tactic suffices here.
